US09315506B2
To a mixture of 10 g of di-tert-butyl N-(4-(((9H-fluorene-9-yl)methoxy)carbonylamino)-2-nitrobenzamido)-L-glutamate in 200 ml of N,N-dimethylformamide 1.34 ml pyrrolidine were added. The mixture was stirred for 30 min. at room temperature and then evaporated to dryness under vacuum. After addition of 200 ml of diisopropylether and stirring for 15 min., the resulting suspension was kept at 0° C. over night. The product was sucked-off, washed with 60 ml of diisopropylether and then dried under vacuum to give 4.3 g of N-(4-amino-2-nitrobenzamido)-L-glutamic acid di-tert.-butylester as yellow needles (HPLC, assay 99.7% area).

reactant | di-tert-butyl N-(4-(((9H-fluorene-9-yl)methoxy)carbonylamino)-2-nitrobenzamido)-L-glutamate | 10 g | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)NC1=CC(=C(C(=O)NN[C@@H](CCC(=O)OC(C)(C)C)C(=O)OC(C)(C)C)C=C1)[N+](=O)[O-] | C35H40N4O9
solvent | N,N-dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | N-(4-amino-2-nitrobenzamido)-L-glutamic acid di-tert.-butylester | 4.3 g | C(C)(C)(C)OC([C@@H](NNC(C1=C(C=C(C=C1)N)[N+](=O)[O-])=O)CCC(=O)OC(C)(C)C)=O | C20H30N4O7
